2198-04-15 05:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PRESEP CATHETER - START [**2198-4-14**] 11:00 PM
   placed in ED
 ARTERIAL LINE - START [**2198-4-15**] 01:24 AM
 NASAL SWAB - At [**2198-4-15**] 02:00 AM
   - arterial line placed, noted to be ~10 mmHg higher than cuff
   - quickly weaned off levophed with MAPs >70
   - looked at CT of thigh hematoma with surgery:  not impressed
   - giving 1 unit pRBC
   - to get [**Last Name (un) 45**] stim with AM labs
   - agitated, got low-dose IV Ativan with good effect
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2198-4-15**] 04:50 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2198-4-15**] 01:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-15**] 05:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 99 (76 - 101) bpm
   BP: 98/64(75) {98/60(74) - 145/83(106)} mmHg
   RR: 14 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 6 (0 - 6)mmHg
   Total In:
                                                                     56 mL
                                                                  2,354 mL
   PO:
   TF:
   IVF:
                                                                     56 mL
                                                                  2,254 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    500 mL
                                                                    115 mL
   Urine:
                                                                    500 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -444 mL
                                                                  2,239 mL
   Respiratory support
   O2 Delivery Device: Room air
   SpO2: 100%
   ABG: 7.44/25/101/19/-4
   Physical Examination
   VS T 95.9, HR 89, BP 105/68, RR 21, O2 Sat 100% on RA
   Gen:  appears well, sitting up, awake and alert
   HEENT:  right IJ in place, clean and dry
   Heart:  regular, no murmurs
   Lungs:  clear bilaterally
   Abdomen:  soft, nontender, nondistended, mild suprapubic tenderness, no
   rebound or guarding
   Back:  no CVA tenderness
   Extremities:  warm, strong distal pulses, no tenderness in thighs, 1+
   LLE edema, no RLE edema, sensation intact
   Neuro:  sensation intact, 4/5 strength of b/l LE flexors and extensors
   of proximal and distal muscles groups
   Labs / Radiology
   206 K/uL
   7.5 g/dL
   120 mg/dL
   0.5 mg/dL
   19 mEq/L
   2.6 mEq/L
   8 mg/dL
   112 mEq/L
   139 mEq/L
   22.1 %
   13.1 K/uL
        [image002.jpg]
                             [**2198-4-15**]  03:09 AM
                             [**2198-4-15**]  04:22 AM
   WBC
   13.1
   Hct
   22.1
   Plt
   206
   Cr
   0.5
   TCO2
   18
   Glucose
   120
   Other labs: PT / PTT / INR:16.3/25.2/1.5, CK / CKMB / Troponin-T:97//,
   ALT / AST:27/37, Alk Phos / T Bili:92/0.6, Fibrinogen:146 mg/dL, Lactic
   Acid:1.2 mmol/L, LDH:160 IU/L, Ca++:6.2 mg/dL, Mg++:1.2 mg/dL, PO4:1.8
   mg/dL
   Lactate 1.2
   2 sets of blood and urine cultures pending
   INR 1.5
   Fibrinogen 146
   Troponin pending
   Cortisol pre- and post- ACTH pending
   Assessment and Plan
   A 54 year-old woman with a history of CNS lymphoma presents with
   hypotension.
   .
   #) Hypotension:  Now off levophed and maintaining MAP >65 with IVF
   boluses.  Lactate trending down.  Differential remains broad.  Cardiac
   seems less likely given persistently low CVPs, clear lungs.   However,
   relatively low [**Name (NI) 9144**] argues toward cardiac.   Adrenal insufficiency
   still possible given recent completion of steroid taper. CTA negative
   for PE.  Sepsis still most likely, urine is one obvious culprit, but R
   thigh hematoma could also be a source.  In [**2196**] had ESBL klebsiella and
   [**Last Name (LF) 1591**], [**First Name3 (LF) **] would be concerned for these pathogens again.  Foley has been
   changed.  Regarding management, we have fallen behind this morning in
   that CVP and UOP are less than ideal.
   - continue vancomycin and zosyn for now pending cultures (would not
   broaden to cover above-mentioned pathogens unless clinically unstable
   or positive culture data; could consider Bactrim if klebsiella, as ESBL
   klebsiella previously treated with this)
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 45**] stim; stress-dose steroids if adrenally insufficient.
   - f/u all culture data
   - continue IVF to maintain MAP >65, CVP >8, urine output >30 cc/h:
   bolus 2L now
   .
   #) Episodic LOC:   None since admission.  Seems most likely to be
   orthostatic and less likely seizure activity.
   - f/u neuro-onc recs
   - continue keppra at current dosing
   - will not pursue EEG monitoring at this time, may consider if these
   persist after hypotension resolves
   .
   #)  R thigh hematoma:   Seen on CT in the ED.  Patient intermittently
   endorses pain in the area.  Appears small, but hct lower on admission
   than recent baseline and she has been anticoagulated.  Now s/p 1 unit
   pRBC, Hct bumped appropriately.  concerning given that she is currently
   on lovenox and hct dropped.   Could potentially be a source of
   infection.
   - [**Hospital1 **] hct
   - T&S
   - monitor for sx of compartment syndrome
   .
   #) hx DVT/PE:  Anticoagulation held on admission given R thigh
   hematoma.   No evidence of ongoing bleeding currently. LLE larger than
   RLE, also noted in previous clinic notes, but concerning for recurrent
   DVT (prior was in [**9-30**] in LLE)
   - restart Lovenox 80 mg [**Hospital1 **]
   - consider LENI, although unlikely to affect management as no evidence
   of PE and thus no indication for IVC filter
   .
   #) Elevated troponin:  With flat CK.  likely secondary to demand and
   hypotension.  EKG in the ED with ST depressions laterally new since
   [**9-30**].
   - trend cardiac enzymes
   - repeat EKG in AM
   .
   #) Anion gap:  AG 21 on admission, likely secondary to elevated lactate
   (8.0), now resolved..
   - continue to trend
   - IV fluids as above
   .
   .
   #) CNS lymphoma:  currently being treated with adjuvant Temodar after
   whole brain radiation.
   - continue keppra 1000 mg [**Hospital1 **] (recently increased)
   - continue modafinil
   - continue citalopram
   - completed decadron taper; consider stress-dose steroids PRN adrenal
   insufficiency
   - discuss with Dr. [**Last Name (STitle) 810**] further management
   <br>
   .
   #) F/E/N:  restart regular diet (tolerates at home per husband,
   aggressive electrolyte repletion
   <br>
   #) Prophylaxis:  SC heparin, bowel regimen as needed
   <br>
   #) Communication:  with patient and husband [**Name (NI) **]:  [**Telephone/Fax (1) 4496**]
   <br>
   #) Access:  R IJ, L art line, 2x PIV
   <br>
   #) Code Status:  full code, confirmed with husband
   <br>
   #) Dispo:  ICU for now
   <br>
   ICU Care
   Nutrition:  advance diet today
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-4-14**] 11:00 PM
   18 Gauge - [**2198-4-15**] 12:00 AM
   Arterial Line - [**2198-4-15**] 01:24 AM
   20 Gauge - [**2198-4-15**] 01:25 AM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2198-04-16 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - UOP responded to fluids after 3-4 L of NS (now 40-50 cc/h)
   - Given ~ 500mL o/n for decrease UOP, sBP in 80s but increasing to 100s
   with waking up
   - CVPs still mostly -2 to +2
   - MAPs mostly 70s-80s yesterday but falling into the 60s this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2198-4-15**] 08:35 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-4-15**] 10:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2198-4-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-16**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.4
   HR: 82 (71 - 95) bpm
   BP: 88/48(61) {84/44(59) - 116/72(91)} mmHg
   RR: 17 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 5 (-1 - 9)mmHg
   Total In:
                                                                  8,994 mL
                                                                    954 mL
   PO:
                                                                    750 mL
   TF:
   IVF:
                                                                  7,894 mL
                                                                    954 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    670 mL
                                                                    220 mL
   Urine:
                                                                    570 mL
                                                                    220 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  8,324 mL
                                                                    734 mL
   Respiratory support
   O2 Delivery Device: on room air
   SpO2: 100%
   ABG: 7.44/25/101 [**4-15**] a.m. (repeat pending)
   Physical Examination
   VS T 95.9, HR 89, BP 105/68, RR 21, O2 Sat 100% on RA
   Gen:  appears well, sitting up, awake and alert
   HEENT:  right IJ in place, clean and dry
   Heart:  regular, no murmurs
   Lungs:  clear bilaterally
   Abdomen:  soft, nontender, nondistended, mild suprapubic tenderness, no
   rebound or guarding
   Back:  no CVA tenderness
   Extremities:  warm, strong distal pulses, no tenderness in thighs, 1+
   LLE edema, no RLE edema, sensation intact
   Neuro:  sensation intact, 4/5 strength of b/l LE flexors and extensors
   of proximal and distal muscles groups
   Labs / Radiology:  from 10 pm on [**4-15**], morning labs pending at time of
   note:
   149 K/uL
   8.1 g/dL
   110 mg/dL
   0.4 mg/dL
   16 mEq/L
   3.5 mEq/L
   8 mg/dL
   117 mEq/L
   140 mEq/L
   23.3 %
   9.8 K/uL
        [image002.jpg]
                             [**2198-4-15**]  03:09 AM
                             [**2198-4-15**]  04:22 AM
                             [**2198-4-15**]  08:57 AM
                             [**2198-4-15**]  03:01 PM
                             [**2198-4-15**]  10:00 PM
   WBC
   13.1
   12.0
   9.8
   Hct
   22.1
   25.4
   24.5
   23.3
   Plt
   [**Telephone/Fax (3) 9151**]
   Cr
   0.5
   0.5
   0.4
   TropT
   0.13
   TCO2
   18
   Glucose
   120
   111
   110
   Other labs: PT / PTT / INR:15.2/42.6/1.3, CK / CKMB /
   Troponin-T:97/6/0.13, ALT / AST:27/37, Alk Phos / T Bili:92/0.6,
   Fibrinogen:149 mg/dL, Lactic Acid:1.2 mmol/L, LDH:160 IU/L, Ca++:6.7
   mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   [**Last Name (un) **] stim:  16.6
34.6
   Urine culture [**4-14**]:  fecally contaminated
   Blood culture [**4-14**] and [**4-15**]:  NGTD
   CT Torso:
   1. Probable hematoma in the right buttock and right obturator externus
   muscle
   (medial right upper thigh). Recommend clinical correlation for injury.
   Recommend follow-up as the right obturator mass is incompletely
   images/characterized.
   2. Diffuse osteopenia with generalized body wall atrophy.
   3. No pulmonary embolism.
   4. New small-to-moderate left pleural effusion.
   5. Fatty liver.
   6. Small amount of free fluid in the pelvis.
   7. Mild rectal wall thickening, ?? proctitis.
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A 54 year-old woman with a history of CNS lymphoma presents with
   hypotension.
   .
   #) Hypotension:  Now off levophed and maintaining MAP >65 with IVF
   boluses.  Lactate trending down.  Differential remains broad.  Cardiac
   seems less likely given persistently low CVPs, clear lungs.
   Possible sources:  proctitis, effusion, thigh
   However, relatively low [**Name (NI) 9144**] argues toward cardiac.   Adrenal
   insufficiency still possible given recent completion of steroid taper.
   CTA negative for PE.  Sepsis still most likely given that leukocytosis
   with left shift improved with antibiotics, urine is one obvious
   culprit, but R thigh hematoma could also be a source.  In [**2196**] had ESBL
   klebsiella and [**Last Name (LF) 1591**], [**First Name3 (LF) **] would be concerned for these pathogens again.
   Foley has been changed.  Regarding management, we have fallen behind
   this morning in that CVP and UOP are less than ideal.
   - continue vancomycin and zosyn for now pending cultures (would not
   broaden to cover above-mentioned pathogens unless clinically unstable
   or positive culture data; could consider Bactrim if klebsiella, as ESBL
   klebsiella previously treated with this)
   - re-send urine culture although unlikely to be posibitve
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 45**] stim; stress-dose steroids if adrenally insufficient.
   - f/u all culture data
   - continue IVF to maintain MAP >65, CVP >8, urine output >30 cc/h:
   bolus 2L now
   .
   #) Episodic LOC:   None since admission.  Seems most likely to be
   orthostatic and less likely seizure activity.
   - f/u neuro-onc recs
   - continue keppra at current dosing
   - will not pursue EEG monitoring at this time, may consider if these
   persist after hypotension resolves
   .
   #)  R thigh hematoma:   Seen on CT in the ED.  Patient intermittently
   endorses pain in the area.  Appears small, but hct lower on admission
   than recent baseline and she has been anticoagulated.  Now s/p 1 unit
   pRBC, Hct bumped appropriately.  concerning given that she is currently
   on lovenox and hct dropped.   Could potentially be a source of
   infection.
   - [**Hospital1 **] hct
   - T&S
   - monitor for sx of compartment syndrome
   .
   #) hx DVT/PE:  Anticoagulation held on admission given R thigh
   hematoma.   No evidence of ongoing bleeding currently. LLE larger than
   RLE, also noted in previous clinic notes, but concerning for recurrent
   DVT (prior was in [**9-30**] in LLE)
   - restart Lovenox 80 mg [**Hospital1 **]
   - consider LENI, although unlikely to affect management as no evidence
   of PE and thus no indication for IVC filter
   .
   #) Elevated troponin:  With flat CK.  Peaked at .23 and trended down.
   Likely secondary to demand and hypotension.  EKG in the ED with ST
   depressions laterally new since [**9-30**].
   - trend cardiac enzymes
   - repeat EKG in AM
   .
   #) Anion gap:  AG 21 on admission, likely secondary to elevated lactate
   (8.0), now resolved..
   - continue to trend
   - IV fluids as above
   .
   .
   #) CNS lymphoma:  currently being treated with adjuvant Temodar after
   whole brain radiation.
   - continue keppra 1000 mg [**Hospital1 **] (recently increased)
   - continue modafinil
   - continue citalopram
   - completed decadron taper; consider stress-dose steroids PRN adrenal
   insufficiency
   - discuss with Dr. [**Last Name (STitle) 810**] further management
   <br>
   .
   #) F/E/N:  restart regular diet (tolerates at home per husband,
   aggressive electrolyte repletion
   <br>
   #) Prophylaxis:  SC heparin, bowel regimen as needed
   <br>
   #) Communication:  with patient and husband [**Name (NI) **]:  [**Telephone/Fax (1) 4496**]
   <br>
   #) Access:  R IJ, L art line, 2x PIV
   <br>
   #) Code Status:  full code, confirmed with husband
   <br>
   #) Dispo:  ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-4-14**] 11:00 PM
   18 Gauge - [**2198-4-15**] 12:00 AM
   Arterial Line - [**2198-4-15**] 01:24 AM
   20 Gauge - [**2198-4-15**] 01:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-04-17 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - uop picking up
   - CT pelvis with slight increase in size of hematoma
   - Hct stable after 1 unit pRBC in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2198-4-16**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-4-17**] 04:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2198-4-16**] 10:40 AM
   Heparin Sodium (Prophylaxis) - [**2198-4-16**] 09:30 PM
   Morphine Sulfate - [**2198-4-17**] 02:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-17**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.6
C (96.1
   HR: 71 (66 - 91) bpm
   BP: 107/67(84) {91/53(66) - 109/69(85)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 1 (-2 - 8)mmHg
   Total In:
                                                                  5,082 mL
                                                                    292 mL
   PO:
                                                                    867 mL
   TF:
   IVF:
                                                                  3,840 mL
                                                                    292 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,370 mL
                                                                    510 mL
   Urine:
                                                                  1,370 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,712 mL
                                                                   -218 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.36/32/92.[**Numeric Identifier 1176**]/19/-6 yesterday morning
   VS T 95.9, HR 89, BP 105/68, RR 21, O2 Sat 100% on RA
   Gen:  appears well, sitting up, awake and alert
   HEENT:  right IJ in place, clean and dry
   Heart:  regular, no murmurs
   Lungs:  clear bilaterally
   Abdomen:  soft, mild epigastric tenderness , nondistended, mild
   suprapubic tenderness, no rebound or guarding
   Back:  no CVA tenderness
   Extremities:  R thigh not swollen, mildly tender medially, warm, strong
   distal pulses, no tenderness in thighs, 3+ LLE edema, 2+ RLE edema
   Neuro:  sensation intact, 4/5 strength of b/l LE flexors and extensors
   of proximal and distal muscles groups
   Labs / Radiology
   108 K/uL
   9.2 g/dL
   105 mg/dL
   0.4 mg/dL
   19 mEq/L
   3.2 mEq/L
   6 mg/dL
   115 mEq/L
   140 mEq/L
   27.5 %
   6.1 K/uL
        [image002.jpg]
                             [**2198-4-15**]  04:22 AM
                             [**2198-4-15**]  08:57 AM
                             [**2198-4-15**]  03:01 PM
                             [**2198-4-15**]  10:00 PM
                             [**2198-4-16**]  07:06 AM
                             [**2198-4-16**]  08:01 AM
                             [**2198-4-16**]  01:46 PM
                             [**2198-4-16**]  06:11 PM
                             [**2198-4-16**]  09:11 PM
                             [**2198-4-17**]  02:44 AM
   WBC
   12.0
   9.8
   5.4
   6.1
   Hct
   25.4
   24.5
   23.3
   19.9
   26.6
   25.3
   25.7
   27.5
   Plt
   167
   149
   129
   108
   Cr
   0.5
   0.4
   0.4
   0.4
   TCO2
   18
   19
   Glucose
   111
   110
   125
   105
   Other labs: PT / PTT / INR:14.3/39.9/1.2, CK / CKMB /
   Troponin-T:47/6/0.13, ALT / AST:25/35, Alk Phos / T Bili:92/0.5,
   Fibrinogen:149 mg/dL, Lactic Acid:1.2 mmol/L, LDH:143 IU/L, Ca++:6.8
   mg/dL, Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Blood cx [**Date range (1) 9155**] NGTD
   Urine cx [**4-14**] contaminatd
   Urine cx [**4-16**] NGTD
   CT pelvis
   1 [**Doctor Last Name **] axial size of hematoma - slight E suggest extrav may persist
   2. Underlying mass not excluded - recommend f/u imaging
   3 Signif increased anasarca
   4. Peristent pelvic free fluid
   5. Suboptimal study for DVT evaluation
   7. R glut mm lipoma
   8 This study does no rule out proctitis - correlate clinically
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O PULMONARY EMBOLISM (PE), ACUTE
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   potential for bleeding from hematoma
   54 year-old woman with a history of CNS lymphoma presents with
   hypotension.
   .
   #) Hypotension:  Now off pressors x 3 days and able to maintain MAP
   mostly >70 with IVF boluses.  Unable to raise CVP despite multiple
   boluses and good UOP.  Regarding cause, no evidence of adrenal
   insufficiency by [**Last Name (un) 45**] stim yesterday.  Sepsis remains most likely but
   blood loss also high on the differential for her hypotension.
   Regarding source of sepsis, urine culture was contaminated but probably
   still the most likely source given indwelling Foley and positive UA on
   admission.  Repeat UA has expectedly  been negative given antibiotics.
   Her proctitis visualized on CT could also potentially be a source if
   infectious.  Finally, her R obturator hematoma could be infected, or
   the questionable mass could be a source.  She has been on vancomycin
   and zosyn and improving, so it would be difficult to stop abx at this
   time, although unclear exactly what we
re treating.  Furthermore, Zosyn
   may be contributing to thrombocytopenia.
   - continue vancomycin
   - change Zosyn to meropenem
   - f/u all pending cultures
   - continue IVF to maintain MAP >65, CVP >8, urine output >35 cc/h
   .
   #)  R thigh hematoma/mass:  On repeat CT yesterday, mass has not
   enlarged.  However, it is substantial in size.
   - monitor hct
   - no anticoagulation for now
   - discuss with radiology whether this is a true bleed (vs underlying
   mass?)  and how significant it is
   - monitor for sx of compartment syndrome
   #) Falling hematocrit:  Anticoagulation stopped yesterday out of
   concern for bleed.  Hct bumped appropriately to 1 unit pRBC and has
   remained stable.   Also complains of mild abdominal pain (? Upper GI
   source).
   - hold anticoagulation
   - q6h Hct
   - guaiac stools
   - check hemolysis labs
   .
   #) Thrombocytopenia:  concerning for DIC vs HIT.  Fibrinogen on admit
   slightly low.   She has been getting heparin since admit (on and off)
   but had been on lovenox chronically, so HIT less likely.  Fibrinogen
   was somewhat low last time it was checked 2 days ago.
   - check DIC labs
   - replete fibrinogen with cryo PRN
   .
   #) Episodic LOC:   None since admission.  Seems most likely to be
   orthostatic and less likely seizure activity.
   - f/u neuro-onc recs
   - continue keppra at current dosing
   - will not pursue EEG monitoring at this time, may consider if these
   persist after hypotension resolves
   .
   #) hx DVT/PE:  Anticoagulation held on admission given R thigh
   hematoma.   No evidence of ongoing bleeding currently. LLE larger than
   RLE, also noted in previous clinic notes, but concerning for recurrent
   DVT (prior was in [**9-30**] in LLE)
   - no anticoagulation for now
   - LENIs
   - discuss re-challenge with heparin vs possible IVC filter given
   ongoing risk for VTE and possible contra-indication to anticoagulation
   .
   #) Non-anion gap metabolic acidosis:  more than expected as
   compensation for mild respiratory alkalosis.  Most likely secondary to
   large volume of NS resuscitation.
   - LR boluses
   - urine lytes if persists
   .
   #) Elevated troponin:  With flat CK.  Peaked at .23 and trended down.
   Likely secondary to demand and hypotension.  EKG in the ED with ST
   depressions laterally new since [**9-30**].
   - echo today to evaluate cardiac function
   .
   #) CNS lymphoma:  currently being treated with adjuvant Temodar after
   whole brain radiation.  Recently completed decadron taper.
   - continue keppra 1000 mg [**Hospital1 **] for seizure prophylaxis
   - continue modafinil
   - continue citalopram
   - no further steroids
   - discuss with Dr. [**Last Name (STitle) 810**] further management
   <br>
   .
   #) F/E/N:  regular diet, replete lytes PRN
   <br>
   #) Prophylaxis:  pneumoboots, PPI, bowel regimen as needed
   <br>
   #) Communication:  with patient and husband [**Name (NI) **]:  [**Telephone/Fax (1) 4496**]
   <br>
   #) Access:  R IJ, L art line, 2x PIV
   <br>
   #) Code Status:  full code, confirmed with husband
   <br>
   #) Dispo:  ICU for now
   ICU Care
   Nutrition:  regular diet
   Glycemic Control:
   Lines:
   Presep Catheter - [**2198-4-14**] 11:00 PM
   Arterial Line - [**2198-4-15**] 01:24 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI given epigastric discomfort
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: consider call-out today
   ------ Protected Section ------
   Critical Care
   Present for the key portions of the resident
s history and exam. Agree
   substantially with assessment and plan as outlined.  Moaning.
   97.7     118/79  104
   Uncomfortable but arousable
   Chest
 diminished BS
   Abd
 soft
   Plt 108
   LENI clot on L sup fem
   BP now stable. Has been weaned off pressors and seems to be holding.
   UO adequate. Plt ct falling raising question of HIT.
   I would be reluctant to re-anticoagulate given femoral bleed.  Falling
   plt ct raises question of HIT.
   Time spent 30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2198-4-17**] 17:08 ------